US07101880B2
Boc-Leu-OH (350 mg, 1.40 mmol) was combined with EDC (500 mg, 2.6 mmol), HOBt (250 mg, 1.6 mmol), and (2S)-2-amino-1-benzoxazol-2-yl-butan-1-ol hydrochloride (300 mg, 1.24 mmol). Dichloromethane (10 mL) was added and then 4-methylmorpholine (1 mL). The reaction mixture was stirred at ambient temperature for 2 h. After dilution with ethyl acetate (150 mL), the solution was washed with 1N aqueous HCl, water, saturated aqueous NaHCO3 solution and brine, dried with MgSO4 and evaporated under vacuum. The crude product was dissolved in 4N HCl/dioxane solution and stirred for 2 h. Evaporation to dryness gave (S)-2-amino-4-methyl-pentanoic acid(S)-[1-(benzoxazol-2-yl-hydroxy-methyl)-propyl]-amide hydrochloride (450 mg) as brownish oil.

reactant | Boc-Leu-OH | 1.40 mmol, 350 mg | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | EDC | 2.6 mmol, 500 mg
reactant | HOBt | 1.6 mmol, 250 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2S)-2-amino-1-benzoxazol-2-yl-butan-1-ol hydrochloride | 1.24 mmol, 300 mg | Cl.N[C@H](C(O)C=1OC2=C(N1)C=CC=C2)CC
reactant | 4-methylmorpholine | 1 mL | CN1CCOCC1 | C5H11NO
solvent | Dichloromethane | 10 mL | ClCCl | CH2Cl2
product | (S)-2-amino-4-methyl-pentanoic acid(S)-[1-(benzoxazol-2-yl-hydroxy-methyl)-propyl]-amide hydrochloride | 450 mg | Cl.O1C(=NC2=C1C=CC=C2)C([C@H](CC)NC([C@H](CC(C)C)N)=O)O | InChI=1S/C17H25N3O3.ClH/c1-4-12(19-16(22)11(18)9-10(2)3)15(21)17-20-13-7-5-6-8-14(13)23-17;/h5-8,10-12,15,21H,4,9,18H2,1-3H3,(H,19,22);1H/t11-,12-,15?;/m0./s1
